* Z:\College\Senior Year\Trinary Research Project\trinary\circuits\logic_board.asc
XX1 DEC_IN OUT_i OUT_0 OUT_1 decoder1-3
XX2 $G_Vdd $G_Vss tpower
XX3 CU_IN CU_OUT tcycle_up
XX4 TAND_1A TAND_1B TAND_1Y min
XX5 TAND_2A TAND_2B TAND_2Y min
XX6 TAND_3A TAND_3B TAND_3Y min
XX7 INV1_IN PTI1 STI1 NTI1 tinv
XX8 INV2_IN PTI2 STI2 NTI2 tinv
XX9 INV3_IN PTI3 STI3 NTI3 tinv
XX10 INV4_IN PTI4 STI4 NTI4 tinv
XX11 INV5_IN PTI5 STI5 NTI5 tinv
XX12 INV6_IN PTI6 STI6 NTI6 tinv
XX13 INV7_IN PTI7 STI7 NTI7 tinv

* block symbol definitions
.subckt decoder1-3 IN OUT_i OUT_0 OUT_1
XX1pti IN IN_pti pti
XX1sti IN_pti OUT_1 sti
XXinti IN OUT_i nti
XX0nor OUT_1 OUT_i OUT_0 tnor
.ends decoder1-3

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt tcycle_up IN OUT
XXnti _IN _IN_NTI nti
XXpti _IN _IN_PTI pti
XXsti IN _IN sti
XXtnor1 _IN_NTI INI OUT tnor
XXtnor0 _IN_PTI 0 INI tnor
.ends tcycle_up

.subckt min A B MIN_OUT
XXsti_tand AtnandB MIN_OUT sti
XXtnand A B AtnandB tnand
.ends min

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt pti IN OUT
Xinv IN OUT NC_01 NC_02 tinv
.ends pti

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt nti IN OUT
Xinv IN NC_01 NC_02 OUT tinv
.ends nti

.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.subckt tnand A B TNAND_Out
RP NP TNAND_Out 12k
RN TNAND_Out NN 12k
MP1 NP B $G_Vdd $G_Vdd CD4007P
MP2 NP A $G_Vdd $G_Vdd CD4007P
MN2 NI B $G_Vss $G_Vss CD4007N
MN1 NN A NI $G_Vss CD4007N
.ends tnand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.backanno
.end
