* Z:\trinary\code\circuits\logic_board.asc
XDECODER DEC_IN OUT_i OUT_0 OUT_1 decoder1-3
XX2 $G_Vdd $G_Vss tpower
XCYCLE_UP CU_IN CU_OUT tcycle_up
XTAND_1 TAND_1A TAND_1B TAND_1Y min
XTAND_2 TAND_2A TAND_2B TAND_2Y min
XTAND_3 TAND_3A TAND_3B TAND_3Y min
XX7 INV1_IN PTI1 STI1 NTI1 tinv
XX8 INV2_IN PTI2 STI2 NTI2 tinv
XX9 INV3_IN PTI3 STI3 NTI3 tinv
XX10 INV4_IN PTI4 STI4 NTI4 tinv
XBUF1 BUF1_IN BUF1_OUT tbuf
XBUF2 BUF2_IN BUF2_OUT tbuf
XBUF3 BUF3_IN BUF3_OUT tbuf
XBUF4 BUF4_IN BUF4_OUT tbuf

* block symbol definitions
.subckt decoder1-3 IN OUT_i OUT_0 OUT_1
XX1pti IN IN_pti pti
XX1sti IN_pti OUT_1 sti
XXinti IN OUT_i nti
XX0nor OUT_1 OUT_i OUT_0 tnor
.ends decoder1-3

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt tcycle_up IN OUT
XXnti _IN _IN_NTI nti
XXpti _IN _IN_PTI pti
XXsti IN _IN sti
XXtnor1 _IN_NTI INI OUT tnor
XXtnor0 _IN_PTI 0 INI tnor
.ends tcycle_up

.subckt min A B MIN_OUT
XXsti_tand AtnandB MIN_OUT sti
XXtnand A B AtnandB tnand
.ends min

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.subckt tbuf IN OUT
XXinv1 IN _IN sti
XXinv2 _IN OUT sti
.ends tbuf

.subckt pti IN OUT
Xinv IN OUT NC_01 NC_02 tinv
.ends pti

.subckt sti IN OUT
XXinv IN NC_01 OUT NC_02 tinv
.ends sti

.subckt nti IN OUT
Xinv IN NC_01 NC_02 OUT tinv
.ends nti

.subckt tnor A B TNOR_Out
RP NP TNOR_Out 12k
RN TNOR_Out NN 12k
MN1 NN A $G_Vss $G_Vss CD4007N
MP2 NI A $G_Vdd $G_Vdd CD4007P
MN2 NN B $G_Vss $G_Vss CD4007N
MP1 NI B NP $G_Vdd CD4007P
.ends tnor

.subckt tnand A B TNAND_Out
RP NP TNAND_Out 12k
RN TNAND_Out NN 12k
MP1 NP B $G_Vdd $G_Vdd CD4007P
MP2 NP A $G_Vdd $G_Vdd CD4007P
MN2 NI B $G_Vss $G_Vss CD4007N
MN1 NN A NI $G_Vss CD4007N
.ends tnand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.backanno
.end
